US07354933B2
0.1 g of sodium hydride (at 60%) is added to a solution of 0.65 g of 5,5-dimethyl-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione in 40 ml of anhydrous THF, under an inert atmosphere of argon at a temperature in the region of 20° C. Stirring is maintained at this temperature for 30 minutes. 0.47 g of 4-chloromethyl-6-methoxyquinoline dissolved in 10 ml of THF is added. The reaction medium is refluxed for 16 hours. After cooling, 100 ml of water and 75 ml of ethyl acetate are added. After separation of the phases by settling, the organic phase is dried over sodium sulfate, filtered and then concentrated under reduced pressure. The brown oil obtained is purified by flash chromatography (SiO2, EtOAc/cyclohexane, 50/50 by volume, as eluent, Ar). The fractions containing the product are concentrated under reduced pressure. 0.36 g of 5,5-dimethyl-1-(6-methoxyquinolin-4-ylmethyl)-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione is thus obtained, the characteristics of which product are as follows:

reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | 5,5-dimethyl-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione | 0.65 g | CC1(C(N(C(N1)=O)C1=CC=C(C=C1)OC(F)(F)F)=O)C | C12H11F3N2O3
reactant | 4-chloromethyl-6-methoxyquinoline | 0.47 g | ClCC1=CC=NC2=CC=C(C=C12)OC | C11H10ClNO
reactant | water | 100 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 5,5-dimethyl-1-(6-methoxyquinolin-4-ylmethyl)-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione | 0.36 g | CC1(C(N(C(N1CC1=CC=NC2=CC=C(C=C12)OC)=O)C1=CC=C(C=C1)OC(F)(F)F)=O)C | C23H20F3N3O4
